US05550125
3.1. N-(2-Hydroxy-5-methoxyphenyl)trifluoroacetamide.
A suspension of 1 l of diethyl ether and 75.33 g (0.54 mol) of 2-amino-4-methoxyphenol is prepared in a 2 l reactor, with magnetic stirring, and 56 ml of pyridine are added. The reaction medium is cooled with a mixture of ice and ethanol, 131.4 g (0.625 mol) of trifluoroacetic anhydride are added dropwise over 1 h, the mixture is allowed to return to room temperature and stirring is continued for 2 h.

reactant | diethyl ether | 1 l | C(C)OCC | C4H10O
reactant | 2-amino-4-methoxyphenol | 0.54 mol, 75.33 g | NC1=C(C=CC(=C1)OC)O | C7H9NO2
reactant | pyridine | 56 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.625 mol, 131.4 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethanol | C(C)O | C2H6O
product | N-(2-Hydroxy-5-methoxyphenyl)trifluoroacetamide | OC1=C(C=C(C=C1)OC)NC(C(F)(F)F)=O | C9H8F3NO3
